US07696136B2
Dipentyl-5-hydroxyisophthalate
A 100 mL three-neck flask, equipped with a magnetic stir bar, a Claisen adapter with a thermocouple and a subsurface nitrogen inlet, and a short path condenser, was charged with 5.31 grams of dimethyl-5-hydroxyisophthalate, 44 mL of 1-pentanol, and 0.53 gram of p-toluenesulfonic acid. The reaction was stirred at 129° C. for 6.3 hours with a nitrogen sweep. The reaction mixture was taken up in xylenes, extracted with dilute aqueous sodium bicarbonate, washed twice with water, dried over magnesium sulfate, and filtered. Solvent was removed by rotary evaporation to yield 7.3 grams of a straw-colored liquid.

reactant | dimethyl-5-hydroxyisophthalate | 5.31 grams | COC(C1=CC(C(=O)OC)=CC(=C1)O)=O | C10H10O5
reactant | 1-pentanol | 44 mL | C(CCCC)O | C5H12O
reactant | p-toluenesulfonic acid | 0.53 gram | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | Dipentyl-5-hydroxyisophthalate | 7.3 grams | C(CCCC)OC(C1=CC(C(=O)OCCCCC)=CC(=C1)O)=O | C18H26O5
